US04588722
A mixture of 1.3 parts of 2-chloro-3-pyridinamine, 4.1 parts of 1-(4-fluorophenylmethyl)-N-[1-(2-isothiocyanatoethyl)-4-piperidinyl]-1H-benzimidazol-2-amine and 80 parts of ethanol was stirred and refluxed overnight. The reaction mixture was evaporated. Water and ammonia were added to the residue and the product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 1.4 parts of ethyl [2-[4-[[1-[(4-fluorophenyl)-methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]carbamothioate; mp. 148.6° C. (compound 35).

reactant | 2-chloro-3-pyridinamine | ClC1=NC=CC=C1N | C5H5ClN2
reactant | 1-(4-fluorophenylmethyl)-N-[1-(2-isothiocyanatoethyl)-4-piperidinyl]-1H-benzimidazol-2-amine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCN=C=S | C22H24FN5S
reactant | ethanol | C(C)O | C2H6O
product | ethyl [2-[4-[[1-[(4-fluorophenyl)-methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]carbamothioate | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC(OCC)=S | C24H30FN5OS
